US07291632B2
2-Chloro-4-fluoro-N-(3-(piperidin-4-ylamino)phenyl)benzamide dihydrochloride
Combine acetyl chloride (5 mL) and dried methanol (10 mL) at 0° C. under a nitrogen atmosphere. Stir for 1 hr. at 0° C. Add a solution of 4-(3-(2-Chloro-4-fluorobenzoylamino)phenylamino)piperidine-1-carboxylic acid t-butyl ester (Preparation 56, 72 mg, 0.161 mmol) in methanol (2 mL). Stir overnight. Concentrate under reduced pressure. Triturate with diethyl ether (1 mL) to provide a pale yellow foam of the title compound: mp 255–7° C.; mass spectrum (ion spray): m/z=348.2 (M+1). Analysis calc'd for C18H21Cl3FN3O.1.0H2O: C, 49.28; H, 5.28; N, 9.58. Found: C, 49.15; H, 4.96; N, 9.56.

reactant | acetyl chloride | 5 mL | C(C)(=O)Cl | C2H3ClO
reactant | 4-(3-(2-Chloro-4-fluorobenzoylamino)phenylamino)piperidine-1-carboxylic acid t-butyl ester | 0.161 mmol, 72 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC(=CC=C1)NC(C1=C(C=C(C=C1)F)Cl)=O | C23H27ClFN3O3
solvent | methanol | 2 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | 2-Chloro-4-fluoro-N-(3-(piperidin-4-ylamino)phenyl)benzamide dihydrochloride | Cl.Cl.ClC1=C(C(=O)NC2=CC(=CC=C2)NC2CCNCC2)C=CC(=C1)F | InChI=1S/C18H19ClFN3O.2ClH/c19-17-10-12(20)4-5-16(17)18(24)23-15-3-1-2-14(11-15)22-13-6-8-21-9-7-13;;/h1-5,10-11,13,21-22H,6-9H2,(H,23,24);2*1H
